datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:18])[H:19])[H:17])[C:6]([C:7]([C:8]([C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([H:16])[C:3]([C:4](=[C:5]([H:18])[H:19])[H:17])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]([H:24])([H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:15])([H:13])[H:14],62.1324
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1.[O:8][H:19],46.8608
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[N:7]=[O:8]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[N:7]=[O:8],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],105.018
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:19](=[C:20]([H:22])[H:23])[H:21])([H:9])[H:10],24.7274
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:10])([H:7])([H:8])[H:9],35.313
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]2([H:20])[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:26])[H:4].[C:9]1([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]2([H:20])[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2[H:27],66.944
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[O:6][H:7]>>[C:0](=[C:1]=[C:2][H:5])[H:3].[H:4][O:6][H:7],0.0
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[O:12][H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:11])([H:5])[H:6].[H:10][O:12][H:13],0.0
[N:0].[O:1][H:2]>>[N:0][H:2].[O:1],88.9518
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:12])([H:4])([H:5])[H:6].[S:11][H:13],-5.4392
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][O:23],7.983072
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[S:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][S:14][H:15],31.3
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5](=[O:6])[H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:3]([C:4]([H:15])([H:16])[H:17])(=[C:5]([O:6][H:10])[H:18])[H:14],213.037
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[S:6][S:7][H:8]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[S:6][S:7][H:8],70.6678
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][O:21][H:22],2.108736
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])([H:18])[H:19])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:11],88.2824
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6][C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6](=[C:5]([H:9])[H:10])[C:7](=[C:8]([H:12])[H:13])[H:11],56.0656
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][H:12],28.267104
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])([H:18])([H:19])[H:20]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:18])([H:19])[H:20])([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26],105.897
